US08247112B2
To 143 g (0.5 mol) of a commercially available tri-n-hexylphosphine (reagent, manufactured by Tokyo Chemical Industry Co., Ltd.), 71 g (0.5 mol) of iodomethane (reagent, manufactured by Tokyo Chemical Industry Co., Ltd.) was added dropwise under a nitrogen atmosphere, and the mixture was reacted at 30 to 40° C. for 5 hours. After the reaction was completed, 100 ml of hexane was added to the reaction mixture to separate layers. The resulting liquid was then washed three times with hexane and vacuum dried under a degree of vacuum of 0.5 kPa at 80° C. for 3 hours to obtain 182 g (yield 85%) of tri-n-hexylmethylphosphonium iodide. To 129 g (0.3 mol) of the resulting tri-n-hexylmethylphosphonium iodide, was added 129 g of pure water. To the mixture with stirring, was added 86 g (0.3 mol) of lithium bis(trifluoromethylsulfonyl)imide (reagent, manufactured by Kanto Chemical Co., Inc.) to allow them to react with each other, followed by stirring for 2 hours at room temperature to complete the reaction. After the completion of the stirring, the lower layer side (product) was separated from the mixture in the form of an upper and lower two-layer structure, washed four times with pure water, and then washed four times with n-hexane. After the completion of the washing, the product was vacuum dried under a degree of vacuum of 0.5 kPa at 80° C. for 3 hours. The structure of the resulting product was examined by 1H-NMR, 13C-NMR, 19F-NMR, and 31P-NMR. The product was identified as tri-n-hexylmethylphosphonium bis(trifluoromethylsulfonyl)imide (THMP-TFSI), and it had a purity of 99%. The resulting THMP-TFSI was a colorless transparent liquid at room temperature (25° C.), which had a moisture content determined by the Karl Fischer titration method of 104 ppm and a chlorine content determined by ion chromatography of 8 ppm. The amount of the product yielded was 140 g (yield 80%). The product had an electrical conductivity at 25° C. of 0.20 mS/cm.

reactant | tri-n-hexylphosphine | C(CCCCC)P(CCCCCC)CCCCCC | C18H39P
reactant | iodomethane | 0.5 mol, 71 g | IC | CH3I
solvent | hexane | 100 ml | CCCCCC | C6H14
product | tri-n-hexylmethylphosphonium iodide | 182 g, yield 85% | [I-].C(CCCCC)[P+](C)(CCCCCC)CCCCCC | InChI=1S/C19H42P.HI/c1-5-8-11-14-17-20(4,18-15-12-9-6-2)19-16-13-10-7-3;/h5-19H2,1-4H3;1H/q+1;/p-1
